Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Aphasia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is an ___ old ___ speaking man with a
past medical history of afib on Coumadin who presents with an
episode of possible aphasia with CT head showing a chronic
subdural hematoma. Patient was interviewed over the phone with
aide of a ___ interpreter. History was limited to  
the
OSH medical record and the patient's son-in-law over the phone. 
The son that witnessed the episode was not present and I was
unable to reach him over the phone. 

By report, patient had an episode of confusion and difficulty
speaking characterized by possible word substitutions lasting
approximately 1 hour.  He was able to understand during this
time.  His son took him to an outside hospital where both 
patient
and son were noted to be poor historians and minimal history was
obtained.  They are, his blood pressure was elevated with
systolics in the 160s-180s/80s.  His neurologic exam was noted 
to
be nonfocal.  There was concern for possible transient aphasia
and he underwent head CT for stroke workup.  The head CT showed 
a
1.5 cm mixed acute on chronic left frontoparietal subdural
hematoma.  Given elevated blood pressure, he was started on
nicardipine drip.  Patient was transferred to ___ for
neurosurgical evaluation.

Neurosurgery evaluated the patient and felt his symptoms were
most consistent with seizure in the setting of chronic subdural
hematoma.  They declined surgical intervention.  They 
recommended
treatment of systolic blood pressure to goal of less than 160 
and
initiation of Keppra prophylaxis.  They recommended he follow-up
in ___ clinic with repeat head CT.  

Neurology was consulted for possibility of seizures.

Of note, approximately ___ weeks ago patient had a similar
episode of confusion and language difficulty.  There are
conflicting reports of how long the symptoms lasted, with short
records reflecting symptoms lasting 2 days and my conversation
with the son-in-law reflecting symptoms lasting 3 hours.  His
language was normal in between these episodes.

On initial evaluation, patient reports he is in the hospital
because of chronic headaches since ___ and a possible
fracture. 

On neuro ROS, unable to obtain though patient reports feeling
well.

On general review of systems, unable to obtain
 
Past Medical History:
GERD
Cataract
A-fib on Coumadin
"Forgetfulness"
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
==============
ADMISSION EXAM
==============
Vitals: T: 98.7  P: 79 R: 16  BP: 163/80 SaO2:95% RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple. No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented to self, date is ___, places hospital though he does not know the name.  He is
unable to name the days of the week.  He is unable to provide a
history of why he is in the hospital.  His language is fluent 
but
he is going on about unrelated topics.  He follows simple
commands but not complex ones.  Unable to assess for dysarthria.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3mm and minimally reactive.  Eyes move 
in
all directions.  Bilateral blink to threat
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. 

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.  Gives way with deltoid testing and has trouble following
directions, but overall strength is full.
  Delt Bic Tri WrE  FE  IP Quad Ham  TA Gastroc   
L  -    ___   ___    5   5     5         
R  -    ___   ___    5   5     5         

-Sensory: No deficits to light touch. 

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination and gait: Unable to assess given difficulty
following instructions

==============
DISCHARGE EXAM
==============
Vitals: T: 98.3  BP: 138-163/73-82  HR: ___  RR 18  97-100% ___ 
93-135
General: Awake in chair, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in 
oropharynx
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.

Neurologic: (with translator) 
-Mental Status: Alert, oriented to self, place and year. He is 
unable to provide a history of why he is in the hospital.  His 
language is interrupted with word-finding pauses, but no 
paraphasic errors (per interpreter).  He follows simple commands 
but not complex ones.  No  dysarthria.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3mm and minimally reactive.  Eyes move 
in all directions.  Bilateral blink to threat
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. 

-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis 
noted.  Gives way with deltoid testing and has trouble following 
directions, but overall strength is full.
  Delt Bic Tri WrE  FE  IP Quad Ham  TA Gastroc   
L  -    ___   ___    5   5     5         
R  -    ___   ___    5   5     5         

-Sensory: No deficits to light touch. 

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination and gait: Unable to assess given difficulty 
following instructions
 
Pertinent Results:
====
LABS
====
___ 04:00PM BLOOD WBC-5.9 RBC-5.29 Hgb-12.9* Hct-41.4 
MCV-78* MCH-24.4* MCHC-31.2* RDW-15.0 RDWSD-42.2 Plt ___
___ 06:52AM BLOOD WBC-4.4 RBC-5.35 Hgb-12.9* Hct-42.2 
MCV-79* MCH-24.1* MCHC-30.6* RDW-15.0 RDWSD-42.4 Plt ___
___ 11:25AM BLOOD WBC-5.1 RBC-4.92 Hgb-12.5* Hct-39.6* 
MCV-81* MCH-25.4* MCHC-31.6* RDW-15.1 RDWSD-43.9 Plt ___
___ 07:10AM BLOOD WBC-4.8 RBC-5.13 Hgb-12.3* Hct-40.7 
MCV-79* MCH-24.0* MCHC-30.2* RDW-15.3 RDWSD-43.4 Plt ___
___ 04:50AM BLOOD WBC-4.8 RBC-4.72 Hgb-11.4* Hct-36.8* 
MCV-78* MCH-24.2* MCHC-31.0* RDW-15.0 RDWSD-42.5 Plt ___
___ 04:00PM BLOOD Neuts-48.9 ___ Monos-7.2 Eos-3.4 
Baso-0.5 Im ___ AbsNeut-2.86 AbsLymp-2.32 AbsMono-0.42 
AbsEos-0.20 AbsBaso-0.03
___ 11:25AM BLOOD Neuts-46.2 ___ Monos-7.1 Eos-4.7 
Baso-0.6 Im ___ AbsNeut-2.34 AbsLymp-2.08 AbsMono-0.36 
AbsEos-0.24 AbsBaso-0.03
___ 04:00PM BLOOD ___ PTT-36.5 ___
___ 06:52AM BLOOD ___ PTT-34.7 ___
___ 11:25AM BLOOD ___ PTT-32.1 ___
___ 04:00PM BLOOD Glucose-72 UreaN-13 Creat-0.9 Na-138 
K-4.4 Cl-101 HCO3-24 AnGap-17
___ 06:52AM BLOOD Glucose-87 UreaN-12 Creat-0.8 Na-140 
K-4.4 Cl-100 HCO3-26 AnGap-18
___ 11:25AM BLOOD Glucose-156* UreaN-18 Creat-1.0 Na-138 
K-4.3 Cl-99 HCO3-24 AnGap-19
___ 07:10AM BLOOD Glucose-99 UreaN-15 Creat-0.8 Na-138 
K-4.9 Cl-102 HCO3-27 AnGap-14
___ 04:50AM BLOOD Glucose-97 UreaN-13 Creat-0.8 Na-143 
K-4.6 Cl-105 HCO3-26 AnGap-17
___ 06:52AM BLOOD ALT-<5 AST-13 AlkPhos-113 TotBili-0.5
___ 04:00PM BLOOD Calcium-9.3 Phos-2.2* Mg-2.2
___ 11:25AM BLOOD Calcium-8.8 Phos-2.2* Mg-2.2
___ 07:10AM BLOOD Calcium-8.7 Phos-2.4* Mg-2.1
___ 04:50AM BLOOD Calcium-8.6 Phos-2.4* Mg-2.0
___ 06:52AM BLOOD %HbA1c-5.7 eAG-117
___ 06:52AM BLOOD Triglyc-106 HDL-57 CHOL/HD-3.0 LDLcalc-92
___ 06:52AM BLOOD TSH-2.7

=======
IMAGING
=======
- ___ CT Head (OSH) 
Wet read: 1.5 cm thick acute-on-chronic left frontoparietal 
subdural hematoma

- ___ EEG
IMPRESSION: This is an abnormal routine EEG due to the presence 
of focal
slowing in the left hemisphere, maximal in the left temporal and 
parasagittal regions; this finding is indicative of underlying 
focal subcortical dysfunction. No seizures or epileptiform 
discharges are recorded.

- ___ Chest (PA & LAT)
No radiographic evidence significant acute cardiopulmonary 
abnormality.
 
Brief Hospital Course:
Mr. ___ is a ___ year-old man with a history of a-fib on 
Coumadin who presented with confusion and language difficulty - 
including word substitutions. Family report was conflicting, but 
these symptoms were episodic lasting from either hours to days 
and had possibly happened before. Exam was significant for 
hypertension, disorientation, inattention, with fluent speech 
and intact comprehension. CT showed a 1.5cm mixed 
acute-on-chronic left subdural hematoma. His family noted that 
he had a fall several weeks ago. He was evaluated by 
neurosurgery who felt that no intervention was necessary. His 
symptoms may have been from edema secondary to SDH, seizure, or 
TIA. His Coumadin (which was for his a-fib but subtherapeutic at 
1.4) was held for at least 2 weeks until follow-up CT can 
confirm absence of continued acute bleeding. This was 
communicated to his PCP who will manage repeat imaging and 
resumption of his Coumadin. 
- He was started on prophylactic Keppra 500mg BID, which should 
be continued for at least 6 months. 
- His Coumadin should be held for 2 weeks.
- He should obtain a repeat head CT before restarting 
anticoagulation.
- He did not have any episodes of a-fib while he was admitted.
- He will follow-up with stroke neurology (Dr. ___ in 
___.
- We made an updated appointment with his PCP (Dr. ___ 
___ ___ and communicated the need for repeat CT 
in two weeks, preceding resumption of his anticoagulation. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Warfarin 5 mg PO 6X/WEEK (___) 
2. Warfarin 7.5 mg PO 1X/WEEK (FR) 
3. Vitamin D ___ UNIT PO DAILY 
4. Calcium Carbonate 600 mg PO DAILY 

 
Discharge Medications:
1.  LevETIRAcetam 500 mg PO BID 
RX *levetiracetam [Keppra] 500 mg 1 tablet(s) by mouth twice a 
day Disp #*60 Tablet Refills:*5 
2.  Calcium Carbonate 600 mg PO DAILY  
3.  Vitamin D ___ UNIT PO DAILY  
4. HELD- Warfarin 7.5 mg PO 1X/WEEK (FR)  This medication was 
held. Do not restart Warfarin until you have a repeat head CT 
and are told to restart by a doctor. 
5. HELD- Warfarin 7.5 mg PO 1X/WEEK (FR)  This medication was 
held. Do not restart Warfarin until you have a repeat head CT 
and are told to restart by a doctor. 
6. HELD- Warfarin 7.5 mg PO 1X/WEEK (FR)  This medication was 
held. Do not restart Warfarin until you have a repeat head CT 
and are told to restart by a doctor
7. HELD- Warfarin 7.5 mg PO 1X/WEEK (FR)  This medication was 
held. Do not restart Warfarin until you have a repeat head CT 
and are told to restart by a doctor. 
8. HELD- Warfarin 7.5 mg PO 1X/WEEK (FR)  This medication was 
held. Do not restart Warfarin until you have a repeat head CT 
and are told to restart by a doctor. 
9. HELD- Warfarin 7.5 mg PO 1X/WEEK (FR)  This medication was 
held. Do not restart Warfarin until you have a repeat head CT 
and are told to restart by a doctor. 
10. HELD- Warfarin 7.5 mg PO 1X/WEEK (FR)  This medication was 
held. Do not restart Warfarin until you have a repeat head CT 
and are told to restart by a doctor. 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Subdural Hematoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, 

You were admitted to the hospital for symptoms of confusion and 
language difficulty. These symptoms were found to be the result 
of a bleed around your brain called a SUBDURAL HEMORRHAGE. This 
bleed happened slowly, and may have placed some pressure on your 
brain causing these symptoms. We have stopped your blood 
thinner, Coumadin, and will repeat a scan of your head in 2 
weeks before we restart your blood thinner. 

We are changing your medications as follows: 
- STOP taking Coumadin until told to start by your PCP. You will 
need a CT scan of your brain prior to re-starting, to make sure 
no more bleeding has occurred. 
- START taking Keppra 500mg TWICE PER DAY. This is to prevent 
seizure while this hematoma is present. This is prescribed for 6 
months. 

Please take your other medications as prescribed.

Please followup with Neurology and your primary care physician.
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___